US07727988B2
5-(3,5-dimethyl-4-isoxazolyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride (E22)
5-(3,5-dimethyl-4-isoxazolyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione was treated with a solution of 4N HCl in dioxane (500 μl) to give the title compound as a white solid.

reactant | 5-(3,5-dimethyl-4-isoxazolyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione | CC1=NOC(=C1C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O)C | C24H25F3N4O3
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 500 μl | O1CCOCC1 | C4H8O2
product | 5-(3,5-dimethyl-4-isoxazolyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.CC1=NOC(=C1C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O)C | InChI=1S/C24H25F3N4O3.ClH/c1-14-20(15(2)34-29-14)19-12-31(22(33)28-21(19)32)9-3-8-30-11-18-10-23(18,13-30)16-4-6-17(7-5-16)24(25,26)27;/h4-7,12,18H,3,8-11,13H2,1-2H3,(H,28,32,33);1H/t18-,23+;/m0./s1
